US04143047
2-(N-Butylisobutyramido)-oxazole
n-Butyl-isobutyramide(4.93 g, 0.0344 m) in dry diethyl ether (25 ml) was stirred at room temperature under nitrogen during the dropwise addition of a 1.445 M solution of n-butyl lithium (23.8 ml, 0.0344 m). The mixture was stirred for 15 minutes at room temperature and then 2-ethylsulphinyloxazole (5.0 g, 0.0344 m) in dry diethyl ether (25 ml) was added rapidly. The mixture was stirred at room temperature for 3 hours and then hydrolysed with water. The organic phase was washed several times with water, dried over magnesium sulphate and evaporated in vacuo to give a yellow oil. Distillation gave the title product as a colourless oil, b.p. (airbath) 120° C./0.5 mm.

reactant | n-Butyl-isobutyramide | 4.93 g | C(CCC)C(C(=O)N)(C)C | C8H17NO
reactant | n-butyl lithium | 23.8 ml | C(CCC)[Li]
reactant | 2-ethylsulphinyloxazole | 5.0 g | C(C)S(=O)C=1OC=CN1 | C5H7NO2S
reactant | water | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 2-(N-Butylisobutyramido)-oxazole | C(CCC)N(C(C(C)C)=O)C=1OC=CN1 | C11H18N2O2
